US08623889B2
To a solution of 7-(5-fluoro-2-methylphenyl)-N-(6-methoxypyridin-2-yl)isoquinolin-3-amine (80% pure, 175 mg, 0.390 mmol) in acetic acid (3 mL, 50 mmol) was added hydrogen bromide (2 mL, 20 mmol) (48% in acetic acid). The reaction mixture was stirred at 100° C. under nitrogen for 16 hours. The reaction mixture was cooled to room temperature and then evaporated in vacuo. The resulting residue was dissolved in dichloromethane, washed with saturated aqueous NaHCO3, dried over MgSO4, filtered, and evaporated in vacuo. The crude material was purified via flash chromatography on silica gel (12 g silica, solvent gradient: 0-5% methanol in dichloromethane) followed by reverse phase HPLC purification and lyophilization to yield 4.3 mg (3.2%) of 6-(7-(5-fluoro-2-methylphenyl)isoquinolin-3-ylamino)pyridin-2(1H)-one. LCMS (ESI): RT (min)=5.219, M+H=346.0, method=E; 1H NMR (400 MHz, DMSO-d6) δ 9.85 (broad s, 1H), 9.15 (s, 1H), 8.00 (s, 1H), 7.88 (d, J=8.0 Hz, 1H), 7.69 (d, J=8.5 Hz, 1H), 7.54-7.29 (m, 2H), 7.16 (t, J=9.6 Hz, 2H), 5.93 (m, 2H), 2.27 (s, 3H).

reactant | 7-(5-fluoro-2-methylphenyl)-N-(6-methoxypyridin-2-yl)isoquinolin-3-amine | 0.390 mmol, 175 mg | FC=1C=CC(=C(C1)C1=CC=C2C=C(N=CC2=C1)NC1=NC(=CC=C1)OC)C | C22H18FN3O
reactant | acetic acid | 50 mmol, 3 mL | C(C)(=O)O | C2H4O2
reactant | hydrogen bromide | 20 mmol, 2 mL | Br | BrH
product | 6-(7-(5-fluoro-2-methylphenyl)isoquinolin-3-ylamino)pyridin-2(1H)-one | 4.3 mg, 3.2% | FC=1C=CC(=C(C1)C1=CC=C2C=C(N=CC2=C1)NC1=CC=CC(N1)=O)C | C21H16FN3O
